US08633173B2
Cyclopropanecarboxylic acid [8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amide was prepared from 8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl-amine (0.07 g, 0.2 mmol) and cyclopropanecarbonyl chloride (0.021 mL, 0.23 mmol) in a manner analogous to Example 240b. Product was isolated as a foam (0.063 g, 70%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.61 (d, J=6.7 Hz, 1H), 7.76-7.66 (m, 2H), 7.60-7.50 (m, 1H), 7.51-7.45 (m, 1H), 7.13-7.06 (m, 1H), 3.86 (s, 3H), 1.56 (m, 1H), 1.19-1.14 (m, 2H), 1.01-0.95 (m, 2H), MS=377 (MH)+.

reactant | 8-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl-amine | 0.2 mmol, 0.07 g | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)N | C14H11F3N4O
reactant | cyclopropanecarbonyl chloride | 0.23 mmol, 0.021 mL | C1(CC1)C(=O)Cl | C4H5ClO
product | Cyclopropanecarboxylic acid [8-(2-Methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-amide | COC1=C(C=C(C=C1)C(F)(F)F)C=1C=2N(C=CC1)N=C(N2)NC(=O)C2CC2 | C18H15F3N4O2
